US06103708
[2-(3-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 2 using 3,5-diisopropyl-p-anisic acid (1.02 g, 4.32 mmol, RN-117439-59-5), oxalyl chloride (0.415 mL, 4.75 mmol), N,N-dimethylformamide (2 drops), tin (IV) chloride (0.556 mL, 4.75 mmol) and 2-(3-bromo-benzyl)-4,5-dimethyl-furan (1.15 g, 4.32 mmol) in CH2Cl2. Purification on Biotage KP-Sil eluting with 3% EtOAc/pet. ether gave 1.36 g (65%) of the title compound as a yellow clear oil. 1H NMR (DMSO-d6) δ 1.17 (d, 12 H), 1.80 (s, 3 H), 2.20 (s, 3 H), 3.28 (septet, 2 H), 3.74 (s, 3 H), 3.87 (s, 2 H), 7.06 (d, 1 H), 7.19 (d, 1 H), 7.24 (s, 1 H), 7.38 (dd, 1 H), 7.46 (s, 2 H).

reactant | 3,5-diisopropyl-p-anisic acid | 4.32 mmol, 1.02 g | C(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)C | C14H20O3
reactant | oxalyl chloride | 4.75 mmol, 0.415 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 4.75 mmol, 0.556 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(3-bromo-benzyl)-4,5-dimethyl-furan | 4.32 mmol, 1.15 g | BrC=1C=C(CC=2OC(=C(C2)C)C)C=CC1 | C13H13BrO
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [2-(3-Bromo-benzyl)-4,5-dimethyl-furan-3-yl]-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 1.36 g, 65% | BrC=1C=C(CC=2OC(=C(C2C(=O)C2=CC(=C(C(=C2)C(C)C)OC)C(C)C)C)C)C=CC1 | C27H31BrO3
